US06586429B2
To a stirring solution of 3-amino-1-propanol (7.5 g, 100 mmol) and triethylamine (12.1 g, 120 mmol) in methanol (150 ml) at room temperature was added di-tert-butyl-dicarbonate (24.4 g, 112 mmol). The mixture was stirred at room temperature for 16 hours and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with ethyl acetate-hexane (1:1) to provide 3-(tert-butoxycarbonylamino)-1-propanol (12.8 g, 80% yield) as a colorless oil.

reactant | 3-amino-1-propanol | 100 mmol, 7.5 g | NCCCO | C3H9NO
reactant | triethylamine | 120 mmol, 12.1 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl-dicarbonate | 112 mmol, 24.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 150 ml | CO | CH4O
product | 3-(tert-butoxycarbonylamino)-1-propanol | 12.8 g, 80% yield | C(C)(C)(C)OC(=O)NCCCO | C8H17NO3
